US05409928
(2) Preparation of 3-amino-4-[4-(3-methoxyphenylmethyl)phenyl]pyrazole
To a solution of 3-amino-2-carbamoyl-4-[4-(3-methoxyphenylmethyl)phenyl]pyrazole (4.1 g) in methanol (50 ml) was added 5N sodium hydroxide solution (20 ml), and the mixture was refluxed for 30 minutes. Methanol was distilled away under reduced pressure. To the residue was added water (150 ml), and the mixture was neutralized (pH 7 to 8) with conc. hydrochloric acid, and extracted with chloroform. The extract was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The residue was separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:1, followed by ethyl acetate) to give the title compound (1.8 g).

reactant | 3-amino-2-carbamoyl-4-[4-(3-methoxyphenylmethyl)phenyl]pyrazole | 4.1 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC(=CC=C1)OC)C(N)=O | C18H18N4O2
reactant | sodium hydroxide | 5N, 20 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-amino-4-[4-(3-methoxyphenylmethyl)phenyl]pyrazole | 1.8 g | NC1=NNC=C1C1=CC=C(C=C1)CC1=CC(=CC=C1)OC | C17H17N3O
